US05117037
To a toluene solution (84.0 ml) of 2,6-di-tert-butyl-4-methylphenol (9.78 g, 44.5 mmol), diisobutylaluminum hydride (1.5M toluene solution, 18.5 ml, 27.8 mmol) was dropwise added over a period of 30 minutes under an argon atmosphere at 0° C. Then, the mixture was stirred at the same temperature for 90 minutes. Then, at -78° C., a toluene solution (30.0 ml) of 3-(3-oxa-4-tert-butoxycarbonylbutyl)-7-exo-(2-chloro-4,4-dimethyl-3-oxo-1-nonen-6-ynyl)-8-endo-hydroxy-cis-bicyclo[4.3.0]non-2-ene (1.37 g, 2.78 mmol) was dropwise added to the reaction solution over a period of 10 minutes. Then the temperature was raised from -78° C. to -60° C. over a period of two hours. To the reaction solution, a saturated sodium chloride aqueous solution was added, and the mixture was stirred for a while. Then, the mixture was extracted with ethyl acetate, and the organic layer was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue thereby obtained was purified by silica gel column chromatography (ethyl ether : n-hexane =1 : 1-2) to obtain 3-(3-oxa-4-tert-butoxycarbonylbutyl)-7-exo-(2-chloro-4,4-dimethyl-3α-hydroxy-1-nonen-6-ynyl)-8-endo-hydroxy-cis-bicyco[4.3.0]non-2-ene (1.18 g, 86.0%) as a highly porous component and 3-(3-oxa-4-tert-butoxycarbonylbutyl)-7-exo-(2-chloro-4,4-dimethyl-3β-hydroxy-1-nonen-6-ynyl)-8-endo-hydroxy-cis-bicyclo[4.3.0]non-2-ene (0.16 g, 11.6%) as a low polar component, each as a slightly yellow oily substance. The spectrum data of the α-epimer are shown below. The spectrum data of the β-epimer were substantially the same as α-epimer.

reactant | 2,6-di-tert-butyl-4-methylphenol | 44.5 mmol, 9.78 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | diisobutylaluminum hydride | 27.8 mmol, 1.5M, 18.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 30.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 84.0 ml | C1(=CC=CC=C1)C | C7H8
product | non-2-ene | 1.18 g, 86.0% | CC=CCCCCCC | C9H18
